US07655666B2
A solution of 2-amino-5-[3-(tetrahydro-pyran-2-yloxy)-propyl]-4-trifluoromethyl-benzoic acid methyl ester (1.00 g, 2.77 mmol) in THF (10 mL) was treated with (CCl3O)2CO (279 mg, 0.94 mmol) and the mixture was stirred at r.t. for 15 min under nitrogen. To this solution was added dropwise Et3N (0.39 mL, 2.77 mmol) and the mixture was further diluted with THF (20 mL), and stirred for another 3 h at r.t. The mixture was then treated with CH3SO2NHNH2 (305 mg, 2.77 mmol) and stirred for 16 h at r.t. Aqueous sodium hydroxide (1M, 10 mL, 10 mmol) was subsequently added and the solution was stirred for 3 h at r.t. The mixture was acidified with aqueous hydrochloric acid (4N) until pH=3-4, and then diluted with EtOAc. The layers were separated and the organic phase was washed once with water and then dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The white solid obtained was taken up in EtOAc and stirred at r.t. for 1 h. The suspension was filtered and the white solid was dried. This solid was then taken up in THF and this solution was acidified with aqueous hydrochloric acid (4M). The mixture was concentrated in vacuo to give a white solid, which was recrystallized in EtOAc. This solid was then purified by flash chromatography (silica gel 60, hexanes/EtOAc 2:1) to provide N-[6-(3-hydroxy-propyl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide (100 mg, 0.26 mmol, 9%) as a white powder, m.p. 243-247° C., ESI-MS: m/z 382 [M+H]+, 1H-NMR (DMSO-d6, 400 MHz) 8.04 (s, 1H), 7.53 (s, 1H), 4.60 (m, 1H), 3.48 (m, 2H), 3.18 (s, 3H), 2.83, (m, 2H), 1.74 (m, 2H).

reactant | 2-amino-5-[3-(tetrahydro-pyran-2-yloxy)-propyl]-4-trifluoromethyl-benzoic acid methyl ester | 2.77 mmol, 1.00 g | COC(C1=C(C=C(C(=C1)CCCOC1OCCCC1)C(F)(F)F)N)=O | C17H22F3NO4
reactant | Et3N | 2.77 mmol, 0.39 mL | CCN(CC)CC | C6H15N
reactant | CH3SO2NHNH2 | 2.77 mmol, 305 mg | CS(=O)(=O)NN | CH6N2O2S
reactant | sodium hydroxide | 10 mmol, 1M, 10 mL | [OH-].[Na+]
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-[6-(3-hydroxy-propyl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide | 0.26 mmol, 100 mg, 9% | OCCCC=1C=C2C(N(C(NC2=CC1C(F)(F)F)=O)NS(=O)(=O)C)=O | C13H14F3N3O5S
